US06630600B1
2-(2-Methoxyethoxy)acetic acid (10 g; 75 mmole) and tetrabutylammonium bromide (25.3 g; 75 mmole) were dissolved in sodium hydoxide solution (2 M; 75 ml; 75 mmole). Benzyl bromide (15.3 g; 89 mmole) dissolved in dichloromethane (150 ml) was added. The reaction mixture was refluxed 4 hours. After separation the organic phase was dried with magnesium sulfate and evaporated. Chromatography using dichloromethane as eluant gave 17.5 g (94%) of benzyl 2-(2-methoxyethoxy)acetate.

reactant | 2-(2-Methoxyethoxy)acetic acid | 75 mmole, 10 g | COCCOCC(=O)O | C5H10O4
reactant | sodium hydoxide | 75 mmole, 2 M, 75 ml | [OH-].[Na+]
reactant | Benzyl bromide | 89 mmole, 15.3 g | C(C1=CC=CC=C1)Br | C7H7Br
catalyst | tetrabutylammonium bromide | 75 mmole, 25.3 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | benzyl 2-(2-methoxyethoxy)acetate | 17.5 g, 94% | COCCOCC(=O)OCC1=CC=CC=C1 | C12H16O4
